US09108956B2
Step 5. Synthesis of benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate
To a solution of benzyl 2-(5-(4-bromophenyl)tetrahydro-2H-pyran-2-yl)acetate (300 mg, 0.771 mmol) in dioxane (6 ml) at room temperature was added 4-aminophenylboronic acid (211 mg, 1.541 mmol), Pd(Ph3P)4 (178 mg, 0.154 mmol) and 2M Na2CO3 (1.541 ml, 3.08 mmol) and the mixture was degassed and heated at 120° C. in microwave for 30 min. The reaction was quenched by sat. aq. NH4Cl and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (10 to 50% EtOAc (2% TEA)/Heptane) to give the title compound 250 mg (yield 81%). MS (ESI) m/z 402.3 (M+1). Retention time 1.48 min (condition A).

reactant | benzyl 2-(5-(4-bromophenyl)tetrahydro-2H-pyran-2-yl)acetate | 0.771 mmol, 300 mg | BrC1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C20H21BrO3
reactant | 4-aminophenylboronic acid | 1.541 mmol, 211 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 3.08 mmol, 2M, 1.541 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.154 mmol, 178 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | 250 mg, yield 81% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C26H27NO3
